US07786115B2
To a solution of 3-amino-N-cyclopropyl-4-methylbenzamide (2 g) in acetonitrile (10 ml) was added with potassium carbonate (2.6 g). The mixture was heated to 80° C. and a solution of allyl bromide (1.1 ml) in acetonitrile (6 ml) was added dropwise and heating was continued for 17 hours. The insoluble material was removed by filtration. The filtrate was concentrated and the residue was recrystallised from 50% ethyl acetate/hexane. The mother liquors was concentrated and by column chromatography on a silica column eluting using a gradient of iso-hexane to 50% ethyl acetate/iso-hexane to yield 3-(allylamino)-N-cyclopropyl-4-methylbenzamide as a colourless oil which solidified to a white solid (688 mg); NMR Spectrum: (DMSOd6) 0.53 m, 2H), 0.78 (m, 2H), 2.10 (s, 3H), 2.81 (m, 1H), 3.67 (s, 1H), 3.81 (d, 2H), 5.13 (d, 1H), 5.23 (d, 1H), 5.93 (m, 1H), 6.11 (s, 1H), 6.83 (d, 1H), 6.98 (m, 2H); Mass Spectrum: M+H+ 231.

reactant | 3-amino-N-cyclopropyl-4-methylbenzamide | 2 g | NC=1C=C(C(=O)NC2CC2)C=CC1C | C11H14N2O
reactant | potassium carbonate | 2.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.1 ml | C(C=C)Br | C3H5Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 6 ml | C(C)#N | C2H3N
product | 3-(allylamino)-N-cyclopropyl-4-methylbenzamide | C(C=C)NC=1C=C(C(=O)NC2CC2)C=CC1C | C14H18N2O
